US05468748
9H-Indeno[1,2-b]pyrazine-2,3,9(1H, 4H)-trione 9-ethylene dithioacetal
A suspension of 9H-indeno[1,2-b]pyrazine-2,3,9(1H, 4H)-trione. 0.9 H2O (2.0 g, 8.68 mmol) in toluene (50 ml), 1,2-ethanedithiol (2.19 ml, 26.04 mmol) and boron trifluoride etherate (1.07 ml, 8.68 mmol) was refluxed for 20 hours. The reaction mixture was cooled to room temperature, and the precipitate was filtered off and washed with toluene, ethanol-water (2:1) and ethanol. The crude material (2.40 g) was recrystallized from DMF-water to give 2.09 g (83%) of the title compound. M.p. >300° C. 1H-NMR (DMSO-d6, δ): 3.68 (m, 2H), 3.91 (m, 2H), 7.2 (t, 1H), 7.3 (t, 1H), 7.51 (d, 1H), 7.59 (d, 1H), 12.05 (s, 1H), 12.38 (s, 1H).

reactant | 9H-indeno[1,2-b]pyrazine-2,3,9(1H, 4H)-trione | N1C2=C(NC(C1=O)=O)C=1C=CC=CC1C2=O | C11H6N2O3
reactant | H2O | 8.68 mmol, 2.0 g | O | H2O
reactant | 1,2-ethanedithiol | 26.04 mmol, 2.19 ml | C(CS)S | C2H6S2
reactant | boron trifluoride etherate | 8.68 mmol, 1.07 ml | B(F)(F)F.CCOCC
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 9H-Indeno[1,2-b]pyrazine-2,3,9(1H, 4H)-trione 9-ethylene dithioacetal | 2.09 g, 83% | C1CSC2(NC3=C(NC2=O)C=2C=CC=CC2C3=O)S1 | C13H10N2O2S2
